US08426420B2
(i) 4-((S)-2-{[5-((S)-1-Benzyloxycarbonyl-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester
To a solution of 4.00 g 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-6-phenyl-pyridine-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester in 30 ml DMF were added 1.84 g (R)-2-bromo-propionic acid benzyl ester (prepared by standard benzylation procedure using (R)-2-bromopropionic acid and benzyl alcohol

reactant | 4-{(S)-4-tert-Butoxycarbonyl-2-[(4-hydroxy-6-phenyl-pyridine-2-carbonyl)-amino]-butyryl}-piperazine-1-carboxylic acid ethyl ester | 4.00 g | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NC(=CC(=C1)O)C1=CC=CC=C1)=O | C28H36N4O7
reactant | (R)-2-bromo-propionic acid benzyl ester | 1.84 g | C(C1=CC=CC=C1)OC([C@@H](C)Br)=O | C10H11BrO2
reactant | (R)-2-bromopropionic acid | Br[C@@H](C(=O)O)C | C3H5BrO2
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-((S)-2-{[5-((S)-1-Benzyloxycarbonyl-ethoxy)-1-phenyl-1H-pyrazole-3-carbonyl]-amino}-4-tert-butoxycarbonyl-butyryl)-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)O[C@@H](C)C(=O)OCC1=CC=CC=C1)C1=CC=CC=C1)=O | C36H45N5O9
